US04622322
2. 5,6-Dihydro-1,4(4H)-thiazin-2-yl phenyl ketone
To a solution of 39.56 g (0.16M)α-acetylthio-β-dimethylaminoacrylophenone in 300 ml absolute ethanol stirring under nitrogen at 0° a solution of 8.64 g (0.16M) sodium methoxide in 230 ml ethanol is added dropwise over a period of 15 minutes. After complete addition, the dark red solution is stirred at 0 to -3° for 0.5 hours. To the solution stirring at -3° a solution of 32.79 g (0.16M) 2-bromoethylamine hydrobromide in 270 ml absolute ethanol is added dropwise over a period of 25 minutes. After complete addition the dark solution is stirred at 0° for 0.5 hours, and a solution of 8.64 g (0.16M) sodium methoxide in 230 ml absolute ethanol is added dropwise over a period of 15 minutes. The dark solution is stirred at 0° for 1 hour. The reaction mixture is allowed to warm slowly to 20° . A suspension is formed within an hour of removing the cooling bath. The reaction mixture is stirred for 16 hours at ca 20° . The suspension is cooled to 5° and acidified to pH 2 with 30 ml of a 1:1 mixture of ethanol and concentrated hydrochloric acid. The suspension is concentrated in vacuo to remove all but ca. 100 ml of ethanol. The residue is suspended in 200 ml CHCl3 and the mixture is washed with water and a saturated NaCl solution. The organic layer is concentrated in vacuo to give a partially crystalline residue. This residue is triturated with a 1:1 mixture of ether and ethanol. Orange crystals are collected to give the title compound. M.P. 184°-186.5°.

reactant | α-acetylthio-β-dimethylaminoacrylophenone | 0.16M, 39.56 g | C(C)(=O)SC(C(=O)C1=CC=CC=C1)=CN(C)C | C13H15NO2S
reactant | sodium methoxide | 0.16M, 8.64 g | C[O-].[Na+]
reactant | 2-bromoethylamine hydrobromide | 0.16M, 32.79 g | Br.BrCCN
reactant | sodium methoxide | 0.16M, 8.64 g | C[O-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 230 ml | C(C)O | C2H6O
solvent | ethanol | 270 ml | C(C)O | C2H6O
solvent | ethanol | 230 ml | C(C)O | C2H6O
product | 5,6-Dihydro-1,4(4H)-thiazin-2-yl phenyl ketone | C1(=CC=CC=C1)C(=O)C=1SCCNC1 | C11H11NOS
